US07968538B2
1,2,3,4-Tetrahydro-2-methyl-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine
A solution of N-(5-fluoro-2-(methylsulfonyl)phenyl)-1,2,3,4-tetrahydro-2-methylnaphthalen-1-amine (63.3 mg, 0.19 mmol), piperazine (328 mg, 3.79 mmol) and N,N-diisopropylethylamine (0.34 mL, 1.99 mmol) in N,N-dimethylformamide (3 mL) was stirred at 110° C. for 16 h. The reaction mixture was cooled down, poured over 10 mL of water and extracted with diethyl ether. After evaporation of solvent the crude product was purified by silica chromatography (10% methanol in dichloromethane) to yield 70 mg (92%) of desired product. 1H NMR (400 MHz, CDCl3): δ 7.61 (d, 1H), 7.29 (m, 1H), 7.14 (m, 3H), 6.46 (d, 1H), 6.27 (dd, 1H), 12.2 (d, 1H), 4.28 (t, 1H), 3.29 (m, 1H), 3.20 (m, 4H), 3.01 (m, 1H), 2.96 (m, 4H), 2.88 (s, 3H), 2.30-1.70 (m, 4H), 1.12 (d, 3H); MS (ESI) m/z: 400.1 (M++1).

reactant | N-(5-fluoro-2-(methylsulfonyl)phenyl)-1,2,3,4-tetrahydro-2-methylnaphthalen-1-amine | 0.19 mmol, 63.3 mg | FC=1C=CC(=C(C1)NC1C(CCC2=CC=CC=C12)C)S(=O)(=O)C | C18H20FNO2S
reactant | piperazine | 3.79 mmol, 328 mg | N1CCNCC1 | C4H10N2
reactant | N,N-diisopropylethylamine | 1.99 mmol, 0.34 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | 10 mL | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 1,2,3,4-Tetrahydro-2-methyl-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine | 70 mg, 92% | CC1C(C2=CC=CC=C2CC1)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C | C22H29N3O2S
